US04539410
Condensation of 5-chloro-3-methylindole with imidazole according to the procedure described in the previous examples gives 5-chloro-2-(1-imidazolyl)-3-methylindole, m.p. 212°-215°.

reactant | 5-chloro-3-methylindole | ClC=1C=C2C(=CNC2=CC1)C | C9H8ClN
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 5-chloro-2-(1-imidazolyl)-3-methylindole | ClC=1C=C2C(=C(NC2=CC1)N1C=NC=C1)C | C12H10ClN3
